US08222275B2
Step b)—Isoquinolin-5-yl-5-boronic acid
A 2.5 M solution of n-BuLi (1.2 equiv., 3 mmol, 1.2 ml) in 20 ml of freshly distilled THF, cooled to −78° C., was added with a solution of 5-bromoisoquinoline (2.5 mmol, 520 mg) in 5 ml of THF. The resulting mixture was allowed to react at this temperature over 45′. A solution of triisopropylborate (1.2 equiv., 3 mmol, 0.7 ml) was then added and the mixture was stirred at the same temperature for 5′ and then allowed to warm to room temperature and stirred for an additional hour. The mixture was quenched by slow addition of a 5% NaOH solution (30 ml). The aqueous layer was separated and acidified to pH 5/6 by addition of 10% HCl at O° C. Extraction with ethyl acetate, evaporation of the organic phase and crystallisation from diethyl ether gave 250 mg of a white solid. Yield=58%. 1H NMR (d6-DMSO, 200 MHz) δ 7.66 (1H, t, J=7.2 Hz), 8.07 (1H, d, J=5.8 Hz), 8.13 (1H, d, J=8.0 Hz), 8.34 (1H, d), 8.47 (1H, d), 8.50 (2H, bs), 9.29 (1H, s); [M+1] 174.1 (C9H8BNO2 requires 172.98)

reactant | n-BuLi | 3 mmol, 1.2 ml, 1.2 equiv. | [Li]CCCC
reactant | 5-bromoisoquinoline | 2.5 mmol, 520 mg | BrC1=C2C=CN=CC2=CC=C1 | C9H6BrN
reactant | triisopropylborate | 3 mmol, 0.7 ml, 1.2 equiv. | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | Isoquinolin-5-yl-5-boronic acid | 250 mg, Yield=58% | B(C1=C2C=CN=CC2=CC=C1)(O)O | C9H8BNO2
